US04216209
Benzyloxycarbonyl-prolyl-histidine, Methyl Ester (Z-Pro-His-OMe)
A solution of N,N1 -dicyclohexylcarbodiimide (DCC, 13.6 g, 66 mmol) in distilled dimethylformamide (DMF, 15 ml) is added dropwise to a cold solution (0° to 5° C.) of Z-Pro-OH (15 g, 60 mmol) and 1-hydroxybenzotriazole (HOBt, 12.16 g, 120 mmol), in distilled DMF (40 ml). The mixture is stirred at 0°-5° C. for 2 hr. Thereafter, a solution of H-His-OMe.2HCl (14.56 g, 60 mmol) and N-ethylmorpholine (15.2 g, 16.89 ml, 132 mmol) in distilled DMF is added to the cold reaction mixture. The pH of the reaction mixture is adjusted to 8 and the reaction mixture stirred for 18 hr at 20°-22° C. The solid (N,N1 -dicyclohexylurea) is removed from the mixture by filtration. The filtrate is concentrated to dryness under reduced pressure. The residue is subjected to chromatography on silica gel (2400 g) using chloroform-methanolpyridine (89:10:1) as the eluant. The pure fractions are pooled and evaporated under reduced pressure to give 16.2 g of the title compound; NMR (CDCl3) δ 3.70 (s, 3H), 5.12 (s, 2H), 7.25 (s, 5H); amino acid analysis: His (1.00), Pro (0.97).

reactant | Z-Pro-OH | 60 mmol, 15 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | 1-hydroxybenzotriazole | 120 mmol, 12.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | H-His-OMe.2HCl | 60 mmol, 14.56 g | N[C@@H](CC1=CNC=N1)C(=O)OC.Cl.Cl
reactant | N-ethylmorpholine | 132 mmol, 16.89 ml, 15.2 g | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | DMF | 40 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonyl-prolyl-histidine, Methyl Ester | 16.2 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)OC)CCC1 | C20H24N4O5
